*  ********************************************************************************************************************
*  COPYRIGHT: INFINEON Technologies AG
*  ********************************************************************************************************************
*  COMMENT:
*  - The models for Infineon Power MOSFET are evaluated with                                                          *
*  - SIMetrixTM-Spice simulator. The Infineon Power MOSFET models                                                     *
*    are tested, verified and provided in Spice simulation code.                                                      *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
*   INFINEON Power Transistors                                                                                        *
*   Content:        SPICE Simulation Model Library                                                                    *
*   Device:         CoolSiC 1200V SiC Trench MOSFET G1                                                                *
*   Package:        TO247-3 / TO247-4                                                                                 *
*   Model Types:    L3                                                                                                *
*   Technology:     1200V                                                                                             *
*   Date:           2022-06-01                                                                                        *
*   Version:        1.0                                                                                               *
*  ********************************************************************************************************************
*  ****************************************************************
*   Infineon  | Terminals   |  Usage suggestion                   *
*   Level     |             |                                     *
*   ------------------------------------------------------------- *
*   L3        | DRAIN,      |  Self-heating effects,              *
*             | GATE,       |  modeling of heat flow              *
*             | SOURCE,     |  including thermal models of        *
*             | SOURCESENSE |  TO package.                        *
*             | Tj, Tcase   |                                     *
*  ****************************************************************
*   Detailed Information:                                         *
*                                                                 *
*   The model files are available on the Infineon web page:       *
*   http://www.infineon.com                                       *
*                                                                 *
*   This library contains models of the following INFINEON        *
*   CoolSiC transistors:                                          *
*                                                                 *
*   G1 1200V                                                      *
*        IMW120R0XXM1_L3   PG-TO247-3 3pin                         *
*        IMZA120R0XXM1_L3  PG-TO247-4 4pin                         *
*                                                                 *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
* DISCLAIMER
* 
* INFINEON’S MODEL TERMS OF USE
*
* BY DOWNLOADING AND/OR USING THIS INFINEON MODEL (“MODEL”), THE USER (INCLUDING YOU) AGREES TO BE BOUND BY THE TERMS
* MODEL BUT OF USE HERE STATED. IF USER DOES NOT AGREE TO ALL TERMS OF USE HERE STATED, USER SHALL NOT DOWNLOAD, USE
* OR COPY THE IMMEDIATELY DELETE IT (TO THE EXTENT THAT IT WAS DOWNLOADED ALREADY).
*
* 1.  SCOPE OF USE
* 1.1 Any use of this Model provided by Infineon Technologies AG is subject to these Terms of Use.
* 1.2 This Model, provided by Infineon, does not fully represent all of the specifications and operating
*     characteristics of the product to which this Model relates.
* 1.3 This Model only describes the characteristics of a typical product. In all cases, the current data sheet
*     information for a given product is the final design guideline and the only actual performance specification.
*     Although this Model can be a useful tool to evaluate the product performance, it cannot simulate the exact
*     product performance under all conditions and it is also not intended to replace bread-boarding for final
*     verification.
* 2.  IMPORTANT NOTICE
* 2.1 Infineon Technologies AG (“Infineon”) is not and cannot be aware of the specific application of the Infineon’s
*     Model by User. However, Model may from time to time be used by User in potentially harmful and/or
*     life-endangering applications such as traffic, logistic, medical, nuclear or military applications or in other
*     applications where failure of the Model may predictably cause damage to persons’ life or health or to property
*     (hereinafter "Critical Applications").
* 2.2 User acknowledges that Infineon has not specifically designed or qualified the Model for Critical Applications
*     that the Model may contain errors and bugs and that User is required to qualify the Model for Critical
*     Applications pursuant to the applicable local quality, safety and legal requirements before permitting or giving
*     access to any such use.
* 3.  CONFIDENTIAL INFORMATION
*     User shall treat ideas, concepts and information incorporated in the Model, the documentation and the content of
*     this Terms of Use (together hereinafter "Confidential Information") confidential, not disclose it to any third
*     party unless otherwise agreed in writing between User and Infineon, not use it for any other purposes than using
*     the Model for simulation and testing purposes only.
* 4.  WARRANTY
* 4.1 User acknowledges that the Model is provided by Infineon under this Terms of Use is provided free of charge and
*     "AS IS" without any warranty or liability of any kind and Infineon hereby expressly disclaims any warranties or
*     representations, whether express, implied, statutory or otherwise, including but not limited to warranties of
*     workmanship, merchantability, fitness for a particular purpose, defects in the Model, or non-infringement of
*     third parties intellectual property rights.
* 4.2 Infineon reserves the right to make corrections, deletions, modifications, enhancements, improvements and other
*     changes to the Model at any time or to move or discontinue any Model without notice.
* 5.  LIABILITY
* 5.1 Nothing in this Terms of Use shall limit or exclude Infineon's liability under mandatory liability laws, for
*     injuries to life, body or health, for fraudulent concealment of defects in the software, or in cases of
*     Infineon's intentional misconduct or gross negligence.
* 5.2 Without prejudice to Sections 5.1, in cases of Infineon's slight negligent breach of obligations that restrict
*     essential rights or duties arising from the nature of this Terms of Use in a way that there is a risk of
*     non-achievement of the purpose of this Terms of Use or of an obligation whose observance User regularly may
*     trust in and whereas compliance with only makes proper execution of this Terms of Use possible, Infineon's
*     liability shall be limited to the typically, foreseeable damage.
* 5.3 Without prejudice to Sections 8.1 and 8.2, Infineon's liability under this Agreement shall be excluded in all
*     other cases.
* 6.  EXPORT REGULATIONS
*     The User shall comply with all applicable national and international laws and regulations, in particular the
*     applicable export control regulations and sanction programs. The User also agrees not to export, re-export or
*     transfer any software or technology developed with or using information, software or technology offered by
*     Infineon, in violation of any applicable laws or regulations of the competent authorities. Further, the User
*     shall neither use any products, information, software and technology offered by Infineon in or in connection
*     with nuclear technology or weapons of mass destruction (nuclear, biological or chemical) and carriers thereof
*     nor supply military consignees.
* 7.  TERMINATION OF USE PERMIT
*     If the User violates these Terms of Use, such User’s permit to use this Model terminates automatically. In
*     addition, Infineon may terminate the User’s permit to use this Model at its discretion and at any time
*     regardless of any violation of these Terms of Use. In any of the foregoing events, the User is obliged to
*     immediately destroy any content that has been downloaded or printed from Infineon’s website.
* 8.  MISCELLANEOUS
* 8.1 These Terms of Use are subject to the laws of the Federal Republic of Germany with the exception of the United
*     Nations on Purchase Contracts on the International Sale of Goods dated April 11, 1980 (CISG). The exclusive
*     place of jurisdiction is Munich, Germany.
* 8.2 Should any provision in these Terms of Use be or become invalid, the validity of all other provisions or
*     agreements shall remain unaffected thereby.
* *********************************************************************************************************************
*     SUPPORT : support@infineon.com
* *********************************************************************************************************************
* *********************************************************************************************************************
.SUBCKT IMZA120R040M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 1P
L0066 SOURCESENSE N01U5 100P
R006J N01UB N01U5 0.1M
L008K SOURCE N01UB 2N
X0090 TJ TCASE Z000D PARAMS: N01VC=6.28 N01VJ=8.89
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=6.28 N01WH=8.89
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMW120R040M1H_L3 DRAIN GATE SOURCE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 10N
R006J N01UB N01U5 3.5M
L008K SOURCE N01UB 4N
X0090 TJ TCASE Z000D PARAMS: N01VC=6.28 N01VJ=8.89
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=6.28 N01WH=8.89
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMZA120R020M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 1P
L0066 SOURCESENSE N01U5 100P
R006J N01UB N01U5 0.1M
L008K SOURCE N01UB 2N
X0090 TJ TCASE Z000Q PARAMS: N01VC=13.35 N01VJ=17.55
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=13.35 N01WH=17.55
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMW120R020M1H_L3 DRAIN GATE SOURCE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 10N
R006J N01UB N01U5 3.5M
L008K SOURCE N01UB 4N
X0090 TJ TCASE Z000Q PARAMS: N01VC=13.35 N01VJ=17.55
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=13.35 N01WH=17.55
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMZA120R014M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 1P
L0066 SOURCESENSE N01U5 100P
R006J N01UB N01U5 0.1M
L008K SOURCE N01UB 2N
X0090 TJ TCASE Z0016 PARAMS: N01VC=17.71 N01VJ=22.91
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=17.71 N01WH=22.91
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMW120R014M1H_L3 DRAIN GATE SOURCE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 10N
R006J N01UB N01U5 3.5M
L008K SOURCE N01UB 4N
X0090 TJ TCASE Z0016 PARAMS: N01VC=17.71 N01VJ=22.91
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=17.71 N01WH=22.91
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMZA120R007M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 1P
L0066 SOURCESENSE N01U5 100P
R006J N01UB N01U5 0.1M
L008K SOURCE N01UB 2N
X0090 TJ TCASE Z001G PARAMS: N01VC=35.42 N01VJ=45.82
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=35.42 N01WH=45.82
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT IMW120R007M1H_L3 DRAIN GATE SOURCE TJ TCASE
L004T DRAIN N01TE 2N
L0054 GATE N01TK 10N
R006J N01UB N01U5 3.5M
L008K SOURCE N01UB 4N
X0090 TJ TCASE Z001G PARAMS: N01VC=35.42 N01VJ=45.82
X$M009F N01TE N01TK N01U5 N01W2 TJ Z001R PARAMS: N01W5=35.42 N01WH=45.82
G009W 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(N01W2,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS
 
.SUBCKT Z000D TJ TCASE PARAMS: N01VC=100 N01VJ=100
R00YN TJ N01WT 5.221E-02
R00YR N01WT N01XS 1.419E-01
R00YT N01XS N01YF 2.138E-01
R00Z8 N01YF TCASE 9.872E-02
C0105 TJ 0 6.893E-04
C010J N01WT 0 3.519E-03
C010T N01XS 0 1.033E-02
C010Y N01YF 0 9.288E-02
.ENDS
 
.SUBCKT Z000Q TJ TCASE PARAMS: N01VC=100 N01VJ=100
R00YN TJ N01WT 2.568E-02
R00YR N01WT N01XS 7.031E-02
R00YT N01XS N01YF 1.583E-01
R00Z8 N01YF TCASE 5.321E-02
C0105 TJ 0 1.517E-03
C010J N01WT 0 7.979E-03
C010T N01XS 0 2.241E-02
C010Y N01YF 0 1.959E-01
.ENDS
 
.SUBCKT Z0016 TJ TCASE PARAMS: N01VC=100 N01VJ=100
R00YN TJ N01WT 1.993E-02
R00YR N01WT N01XS 5.545E-02
R00YT N01XS N01YF 1.379E-01
R00Z8 N01YF TCASE 3.668E-02
C0105 TJ 0 2.060E-03
C010J N01WT 0 1.105E-02
C010T N01XS 0 3.153E-02
C010Y N01YF 0 2.790E-01
.ENDS
 
.SUBCKT Z001G TJ TCASE PARAMS: N01VC=100 N01VJ=100
R00YN TJ N01WT 1.073E-02
R00YR N01WT N01XS 3.129E-02
R00YT N01XS N01YF 9.157E-02
R00Z8 N01YF TCASE 1.459E-02
C0105 TJ 0 4.371E-03
C010J N01WT 0 2.468E-02
C010T N01XS 0 7.344E-02
C010Y N01YF 0 7.521E-01
.ENDS
 
.SUBCKT Z001R N01TE N01TK N01U5 N01YL TJ PARAMS: N01W5=100
.PARAM N01ZN={N01W5}
.PARAM N01ZY={N01WH}
.PARAM INT={2.0}
.PARAM N0209={1.0}
.PARAM N020U={1.0}
.PARAM N0215={0}
.PARAM N0218={1.0*N01ZN}
.PARAM N022U={1.0*N01ZN}
.PARAM N0245={1.0*N01ZN}
.PARAM N024A={0.0}
X01EY N024X N025B N025F Z0038 PARAMS: N0278={N0218}
R01FH N024X N025F 10G
R01FL N01TE N025F 10M
X01GR N028E N025B Z004I PARAMS: N028H={N0245}
R01GS N028E N025B 10G
R01HB N01TE N028E 10M
X01HC N024X N028E N028K Z004Q PARAMS: N0291={N022U}
R01HI N024X N028K 10G
R01I1 N028K N025B 10M
G01IC N029E N025B VALUE={V(N02AV)*DDT(V(N029E,N025B))*IF(V(N029E,N025B)>0,CDS(V(N029E,N025B))+1E-15,CDS(0.0))}
R01IF N029E N025B 10G
R01IJ N01TE N029E 2000M
.PARAM N02B1={0.001}
.PARAM N02BS={0.003}
E01J2 N02CA 0 VALUE={(N02B1+N02BS*(V(TJ,0)-25.0))*I(V01MT)}
R01J6 N02CA 0 1E6
R01KD N02CA N02AV 1
C01KF N02AV 0 12E-8
G01KG N02AV 0 VALUE={IF(V(N01TE,N01U5)>200,1E-1*V(N02AV)*V(N02AV),0)}
.PARAM N02D2={9.0102E-12}
.PARAM N02DD={2.7014E-11}
+N02DR={-3.9407E-03}
.PARAM N02E1={3.0618E-11}
+N02EJ={-1.3751E+00}
.PARAM N02FH={1.9830E-01}
+N02FL={7.2042E-11}
+N02FS={-6.2920E-02}
.PARAM N02FU={5.8791E+00}
+N02FZ={3.6073E-11}
+N02GH={3.8986E-01}
.PARAM N02HM={1.1204E+02}
+N02HN={8.0399E-12}
+N02HR={1.6612E-02}
.FUNC N02HS(N02HY)={N02D2 }
.FUNC N02I6(N02HY)={N02DD*EXP(N02DR*N02HY)}
.FUNC N02IV(N02HY)={N02E1*EXP(N02EJ*N02HY)}
.FUNC N02JI(N02HY)={N02FL*EXP(N02FS*(N02HY-N02FH))}
.FUNC N02K9(N02HY)={N02FZ*0.5*(-TANH(N02GH*(N02HY-N02FU))+1.0)}
.FUNC N02KG(N02HY)={N02HN*0.5*(-TANH(N02HR*(N02HY-N02HM))+1.0)}
.FUNC CDS(N02HY)={1.0*N0245*(N02HS(N02HY)+N02I6(N02HY)+N02IV(N02HY)+N02JI(N02HY)+N02K9(N02HY)+N02KG(N02HY))}
R01L5 N01TK N024X {INT}
X$M01LF N01TE N024X N025B TJ Z0022 PARAMS: N02MP={N0209} N02NM={N020U} N02NP={N0215} N02NS={N01ZN}
V01M2 N025B N01U5 DC=0
X$M01MK N01TE N024X N02NU TJ Z002I PARAMS: N02MP={N0209} N02NM={N020U} N02NP={N0215} N02NS={N01ZN} N02OE={N024A}
V01MT N01U5 N02NU DC=0
G01MX 0 N01YL VALUE={LIMIT(I(V01M2)*(V(N01TE,N01U5)),-100K,100K)}
R01NN 0 N01YL 1
.ENDS
 
.SUBCKT Z0022 N01TE N01TK N01U5 TJ PARAMS: N02MP=100 N02NM=100 N02NP=100 N02NS=100
.FUNC N02PE(N02RN,N02RY,N02SE)={N02SE-(N02SJ+N02SV*EXP(N02TG*N02RN)-N02UA*N02RY+N02NP)}
.FUNC N02UV(N02RN,N02RY,N02SE)={((N02PE(N02RN,N02RY,N02SE)+0.001+LOG(2*COSH(N02PE(N02RN,N02RY,N02SE))))/2)/2}
.FUNC N02V8(N02RN,N02RY,N02SE)={N02VE*N02UV(N02RN,N02RY,N02SE)**N02VS}
.FUNC N02VU(N02RN,N02RY,N02SE)={1/(N02VE*N02UV(N02RN,N02RY,N02SE)**N02WG)}
.FUNC N02WL(N02RN)={N02WQ+N02WV*(N02RN+N02XL)**2.0}
.FUNC N02Y0(N02RN,N02RY,N02SE)={N02V8(N02RN,N02RY,N02SE)*((TANH((N02RY/(N02V8(N02RN,N02RY,N02SE)*N02VU(N02RN,N02RY,N02SE)))**(1/N02YH(N02RN,N02SE))))**N02YH(N02RN,N02SE))}
.FUNC N02ZJ(N02RN,N02RY,N02SE)={N02Y0(N02RN,N02RY,N02SE)*N02ZN(N02RN,N02RY,N02SE)+EXP(0.25*(N02RY-VBR))}
.FUNC N02ZS(N02RN)={N0312+N031D*N02RN+N0331*N02RN**2}
.FUNC N0337(N02RN)={N0356+N035D*N02RN+N035L*N02RN**2}
.FUNC N02YH(N02RN,N02SE)={IF(N02SE>0,N02ZS(N02RN)+N0337(N02RN)*N02SE,1)}
.FUNC N02ZN(N02RN,N02RY,N02SE)={1+(N035N(N02RN,N02RY,N02SE)*N035R(N02RY))}
.FUNC N035R(N02RY)={((TANH((ABS(N02RY)-N035T)*N0367)-TANH((-N035T)*N0367))/(1-TANH((-N035T)*N0367)))}
.FUNC N036W(N02RN)={N037L+N038B*N02RN+N038K*N02RN**2}
.FUNC N039S(N02RN)={N03AC+N03AL*N02RN+N03B1*N02RN**2}
.FUNC N035N(N02RN,N02RY,N02SE)={N036W(N02RN)+N039S(N02RN)*N02UV(N02RN,N02RY,N02SE)}
.PARAM N02UA={0.0015}
+N02WG={1}
+N02VS={2}
+VBR={1450}
+N02SJ={3.15}
+N02SV={2.3319E+00}
+N02TG={-3.3270E-03}
+N02VE={1.0331E+00}
+N02XL={50}
+N02WQ={5.6605E-02}
+N02WV={5.6831E-06}
+N035T={1}
+N0367={0.005}
.PARAM N0312={1.815E+000}
+N031D={-1.072E-003}
+N0331={-3.448E-006}
.PARAM N0356={3.429E-003}
+N035D={3.524E-005}
+N035L={3.810E-008}
.PARAM N037L={6.034E-001}
+N038B={-3.800E-004}
+N038K={-2.514E-006}
.PARAM N03AC={-4.714E-003}
+N03AL={-1.143E-005}
+N03B1={1.143E-007}
.FUNC N03BE(N02RN,N02RY,N02SE)={N02RY/(N02VU(N02RN,N02RY,N02SE))}
.FUNC N03CV(N02RN,N02RY)={N02RY/(N02WL(N02RN))}
G01NW N03D6 N01U5 VALUE={N02NS*IF(V(N03D6,N01U5)>0.0,N02ZJ(V(TJ,0),V(N03D6,N01U5),V(N01TK,N01U5)),N03BE(V(TJ,0),V(N03D6,N01U5),V(N01TK,N01U5)))}
G01O5 N03D6 N01TE VALUE={N02NS*N03CV(V(TJ,0),V(N03D6,N01TE))}
.ENDS
 
.SUBCKT Z002I N01TE N01TK N01U5 TJ PARAMS: N02MP=100 N02NM=100 N02NP=100 N02NS=100 N02OE=100
.FUNC N02UV(N02RN,N02RY,N02SE)={((N02PE(N02RN,N02RY,N02SE)+0.001+LOG(2*COSH(N02PE(N02RN,N02RY,N02SE))))/2)/2}
.FUNC N02VU(N02RN,N02RY,N02SE)={N02MP/(N02VE*N02UV(N02RN,N02RY,N02SE)**N02WG)}
.FUNC N03BE(N02RN,N02RY,N02SE)={N02RY/(N02VU(N02RN,N02RY,N02SE))}
.FUNC N03D7(N02RY,N02RN,N02SE)={(N03DZ+N03F0*(N02RN-25))*(-N02RY-N03F7(N02RN,N02SE))**N03F8}
.FUNC N03F7(N02RN,N02SE)={N03FN-(N03GJ-N03H3*(N02RN-25))*(1+TANH(N03HL*N02SE+N03IK))+N02OE}
.PARAM N03DZ={0.7}
+N03F8={2.0}
+N03FN={2.2}
+N03F0={0.002}
+N03GJ={0.4}
+N03H3={0.0005}
+N03HL={1.0}
+N03IK={1.0}
+N02VE={1.1931E+00}
+N02WG={1.0}
G01PF N01TE N01U5 VALUE={N02NS*IF(V(N01TK,N01U5)>3,0,IF(V(N01TE,N01U5)>-N03F7(V(TJ,0),V(N01TK,N01U5)),0,-N03D7(V(N01TE,N01U5),V(TJ,0),V(N01TK,N01U5))))}
.ENDS
 
.SUBCKT Z0038 N01TK N01U5 N01TE PARAMS: N0278=100
.PARAM N03IP={1.6808E-12}
.PARAM N03JA={6.0200E-12}
+N03JQ={-6.8112E-02}
.PARAM N03JX={2.9312E-12}
+N03JY={-5.1686E-03}
.PARAM N03KC={1.0008E-10}
+N03KM={-8.3837E-01}
.PARAM N03LA={6.0044E+00}
+N03LJ={1.7230E-11}
+N03LZ={4.8792E-01}
.PARAM N03M6={-6.3487E-01}
+N03MS={-2.9418E-10}
+N03ND={9.3502E-01}
.FUNC N03NI(N02HY)={N03IP }
.FUNC N03OO(N02HY)={N03JA*EXP(N03JQ*N02HY)}
.FUNC N03OP(N02HY)={N03JX*EXP(N03JY*N02HY)}
.FUNC N03PC(N02HY)={N03KC*EXP(N03KM*N02HY)}
.FUNC N03PK(N02HY)={N03LJ*0.5*(-TANH(N03LZ*(N02HY-N03LA))+1.0)}
.FUNC N03QD(N02HY)={N03MS*0.5*(-TANH(N03ND*(N02HY-N03M6))+1.0)}
.FUNC CGD(N02HY)={N03NI(N02HY)+N03OO(N02HY)+N03OP(N02HY)+N03PC(N02HY)+N03PK(N02HY)+N03QD(N02HY)}
G01PT N01TK N01TE VALUE={N0278*DDT(V(N01TK,N01TE))*IF(V(N01TE,N01TK)>0,CGD(V(N01TE,N01TK)),CGD(0.0))}
.ENDS Z0038
 
.SUBCKT Z004I N01TE N01U5 PARAMS: N028H=100
.PARAM N02D2={9.0102E-12}
.PARAM N02DD={2.7014E-11}
+N02DR={-3.9407E-03}
.PARAM N02E1={3.0618E-11}
+N02EJ={-1.3751E+00}
.PARAM N02FH={1.9830E-01}
+N02FL={7.2042E-11}
+N02FS={-6.2920E-02}
.PARAM N02FU={5.8791E+00}
+N02FZ={3.6073E-11}
+N02GH={3.8986E-01}
.PARAM N02HM={1.1204E+02}
+N02HN={8.0399E-12}
+N02HR={1.6612E-02}
.FUNC N02HS(N02HY)={N02D2 }
.FUNC N02I6(N02HY)={N02DD*EXP(N02DR*N02HY)}
.FUNC N02IV(N02HY)={N02E1*EXP(N02EJ*N02HY)}
.FUNC N02JI(N02HY)={N02FL*EXP(N02FS*(N02HY-N02FH))}
.FUNC N02K9(N02HY)={N02FZ*0.5*(-TANH(N02GH*(N02HY-N02FU))+1.0)}
.FUNC N02KG(N02HY)={N02HN*0.5*(-TANH(N02HR*(N02HY-N02HM))+1.0)}
.FUNC CDS(N02HY)={N02HS(N02HY)+N02I6(N02HY)+N02IV(N02HY)+N02JI(N02HY)+N02K9(N02HY)+N02KG(N02HY)}
G01IC N01TE N01U5 VALUE={N028H*DDT(V(N01TE,N01U5))*IF(V(N01TE,N01U5)>0,CDS(V(N01TE,N01U5)),CDS(0.0))}
.ENDS Z004I
 
.SUBCKT Z004Q N01TK N01TE N01U5 PARAMS: N0291=100
.PARAM N03S7={-1.7497E-09}
.PARAM N03SB={5.1553E-15}
.PARAM N03SD={-1.3051E+01}
+N03T2={1.0075E-09}
+N03TK={1.1833E-01}
.FUNC N03TY(N02HY)={N03S7 }
.FUNC N03TZ(N02HY)={-N03SB*N02HY }
.FUNC N03U7(N02HY)={N03T2*(TANH(N03TK*(N02HY-N03SD))+1.0)}
.FUNC CGS(N02HY)={N03TY(N02HY)+N03TZ(N02HY)+N03U7(N02HY)}
G01T5 N01TK N01U5 VALUE={N0291*DDT(V(N01TK,N01U5))*CGS(V(N01TE,N01U5))}
.ENDS Z004Q  
